US05527811
N-[(1,2-Dihydro-2-methyl-1-oxo-4-phenylisoquinolin-3-yl)methyl]-N'-[3-(dimethylaminomethyl)phenyl]urea hydrochloride
Using 1,2-dihydro-2-methyl-1-oxo-4-phenyl-3-isoquinoline acetic acid, diphenylphosphoryl azide and 3-(dimethylaminomethyl)aniline, the reaction was carried out by substantially the same procedure as in Method B of Example 1, followed by treatment of the product with hydrogen chloride in ethyl acetate to give the title compound as a white powdery product. NMR (200 MHz,DMSO-d6) ppm: 2.67(3H,s), 2.69(3H,s), 3.64(3H,s), 4.17(4H,m), 6.9-7.2(4H,m), 7.3-7.7(9H,m), 8.32(1H,m), 9.09(1H,bs)

reactant | 1,2-dihydro-2-methyl-1-oxo-4-phenyl-3-isoquinoline acetic acid | CN1C(C2=CC=CC=C2C(=C1CC(=O)O)C1=CC=CC=C1)=O | C18H15NO3
reactant | diphenylphosphoryl azide | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 3-(dimethylaminomethyl)aniline | CN(C)CC=1C=C(N)C=CC1 | C9H14N2
reactant | hydrogen chloride | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[(1,2-Dihydro-2-methyl-1-oxo-4-phenylisoquinolin-3-yl)methyl]-N'-[3-(dimethylaminomethyl)phenyl]urea hydrochloride | Cl.CN1C(C2=CC=CC=C2C(=C1CNC(=O)NC1=CC(=CC=C1)CN(C)C)C1=CC=CC=C1)=O | InChI=1S/C27H28N4O2.ClH/c1-30(2)18-19-10-9-13-21(16-19)29-27(33)28-17-24-25(20-11-5-4-6-12-20)22-14-7-8-15-23(22)26(32)31(24)3;/h4-16H,17-18H2,1-3H3,(H2,28,29,33);1H
